US05621129
To a solution of 1-naphthyl-2,6-dihydroxybenzene (1.1 g, 4.66 mmol) in methylene chloride (10 ml), pyridine (1.06 ml) was added. To the ice-cooled mixture, trifluoromethanesulfonic anhydride (1.62 ml, 9.6 mmol) was added, and stirred for 6 hours. The reaction mixture was diluted with diethyl ether, and washed with 10% hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate, and a saturated aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. The solvent was removed off under reduced pressure, and the residue was purified by silica gel column chromatography (developing phase: n-hexane/ethyl acetate=5/1) to obtain 1-naphthyl-2,6-bis(trifluoromethanesufonyloxy)benzene (2.05 g).

reactant | 1-naphthyl-2,6-dihydroxybenzene | 4.66 mmol, 1.1 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1O)O | C16H12O2
reactant | trifluoromethanesulfonic anhydride | 9.6 mmol, 1.62 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.06 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-naphthyl-2,6-bis(trifluoromethanesufonyloxy)benzene | 2.05 g | C1(=CC=CC2=CC=CC=C12)C1=C(C=CC=C1OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C18H10F6O6S2
